US05534151
Separation of HCFC-22/CFC-12, Run 1
Feed Composition: 98.7 wt. % HCFC-22; 1.3 wt. % CFC-12

reactant | HCFC-22 | C(F)(F)Cl | CHClF2
reactant | CFC-12 | C(F)(F)(Cl)Cl | CCl2F2
product | HCFC-22 CFC-12 | C(F)(F)Cl.C(F)(F)(Cl)Cl | InChI=1S/CCl2F2.CHClF2/c2-1(3,4)5;2-1(3)4/h;1H
